US05189179
7B) 6-[[2-(5-Hydroxy-1H-indol-3-yl)ethyl]amino]-N-(3,4-dimethoxyphenyl)-heptanamide, monohydrochloride hydrate
The compound was prepared as in Example 2B except using 178 mg of serotonin hydrochloride and using N-(3,4-dimethoxyphenyl)-6-oxo-heptanamide (225 mg), running the reaction 21 hours at ca. 25° C. The compound as the free amine had an Rf of 0.5 in 10:90 ethanol:ethyl acetate. The title compound was obtained as a tan solid (247 mg).

reactant | serotonin hydrochloride | 178 mg | C1=CC2=C(C=C1O)C(=CN2)CCN.Cl
reactant | N-(3,4-dimethoxyphenyl)-6-oxo-heptanamide | 225 mg | COC=1C=C(C=CC1OC)NC(CCCCC(C)=O)=O | C15H21NO4
reactant | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[[2-(5-Hydroxy-1H-indol-3-yl)ethyl]amino]-N-(3,4-dimethoxyphenyl)-heptanamide, monohydrochloride hydrate | O.Cl.OC=1C=C2C(=CNC2=CC1)CCNC(CCCCC(=O)NC1=CC(=C(C=C1)OC)OC)C | InChI=1S/C25H33N3O4.ClH.H2O/c1-17(26-13-12-18-16-27-22-10-9-20(29)15-21(18)22)6-4-5-7-25(30)28-19-8-11-23(31-2)24(14-19)32-3;;/h8-11,14-17,26-27,29H,4-7,12-13H2,1-3H3,(H,28,30);1H;1H2
